US06048896
The reaction mixture contained: 75 μl of suspended homogenate; 100 μl of substrate solution containing 50 mM K-phosphate buffer pH 7.5, 2 mM MgCl2, 0.4 mM NADPH, 50 μM L-kynurenine (final concentration), and 25 μl of different concentrations of inhibitor solutions. The reaction was stopped by addition of 200 μl of 1 M HClO4 after 60 min incubation. L-3-hydroxykynurenine formed was quantified by HPLC with coulometric detection at a working voltage of +0.2 V. The column was a 10 cm C18 reversed phase (3 μm. The mobile phase consisted of 950 ml distilled water, 20 ml acetonitrile, 9 ml triethylamine, 5.9 ml phosphoric acid, 100 mg sodium EDTA and 1.5 g heptanesulfonic acid. The flow rate was 1 ml/min.

reactant | NADPH | 0.4 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | L-kynurenine | 50 μM | C=1C=CC(=C(C1)C(=O)C[C@@H](C(=O)O)N)N | C10H12N2O3
product | L-3-hydroxykynurenine | C1=CC(=C(C(=C1)O)N)C(=O)C[C@@H](C(=O)O)N | C10H12N2O4
